US07135480B2
1-(4-Chloro-benzoyl)-3-cyano-pyrrolo[1,2-a]quinoline
The title compound was prepared from 1-(4-chloro-phenacyl)-quinolinium bromide (82.3 mg, 0.227 mmol), tetrapyridinecobalt(II) dichromate (151 mg, 0.248 mmol), sodium bicarbonate (49.5 mg, 0.589 mmol), acrylonitrile (100 μL, 1.52 mmol), and N,N-dimethylformamide (2.0 mL), similar to Example 1b, and yielded 15.6 mg (20%) as a yellow solid. 1H NMR (CDCl3): 8.03 (m, 3H), 7.86 (dd, J=7.97, 1.64 Hz, 1H), 7.75 (d, J=9.34 Hz, 1H), 7.68 (d, J=9.34 Hz, 1H), 7.62 (ddd, J=8.31, 7.07, 1.72 Hz, 1H), 7.55 (m, 3H), 7.41 (s, 1H).

reactant | 1-(4-chloro-phenacyl)-quinolinium bromide | 0.227 mmol, 82.3 mg | [Br-].ClC1=CC=C(C(C[N+]2=CC=CC3=CC=CC=C23)=O)C=C1
reactant | dichromate | 0.248 mmol, 151 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-]
reactant | sodium bicarbonate | 0.589 mmol, 49.5 mg | C([O-])(O)=O.[Na+]
reactant | acrylonitrile | 1.52 mmol, 100 μL | C(C=C)#N | C3H3N
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 1-(4-Chloro-benzoyl)-3-cyano-pyrrolo[1,2-a]quinoline | ClC1=CC=C(C(=O)C2=CC(=C3N2C2=CC=CC=C2C=C3)C#N)C=C1 | C20H11ClN2O
